US03946049
5-(p-Acetylphenyl)-2-furonitrile 5-(p-Acetylphenyl)-2-furaldehyde (43 g, 0.2 mole) was dissolved in a mixture of 2.8 l of ethanol and 150 ml of dimethylformamide by warming on a steam bath with stirring. The slightly cloudy brown solution was cooled down to 35° and then 13.9 g (0.2 mole) of hydroxylamine hydrochloride in a minimum amount of water (50 ml) was added in about 5 minutes. The cloudy solution was allowed to stir at ambient temperature for 53/4 hours. After overnight standing, the reaction mixture was poured onto crushed ice. Light brown solid separated and was collected, washed with water and air dried. More solid separated from the filtrate and was also collected. The combined yield of the oxime was 43 g (93.5%). The solid was placed in 500 ml of acetic anhydride and heated at reflux for 4 hours. After cooling, the reaction mixture was poured onto crushed ice and allowed to hydrolyze gradually. The brown solid was collected, washed well with water and air dried to give 37.5 g of crude material. Recrystallization from 1.1 l of methylcyclohexane gave 22 g (52.5%) of 5-(p-acetylphenyl)-2-furonitrile.

reactant | 5-(p-Acetylphenyl)-2-furonitrile 5-(p-Acetylphenyl)-2-furaldehyde | 0.2 mole, 43 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C=O.C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C#N
reactant | hydroxylamine hydrochloride | 0.2 mole, 13.9 g | Cl.NO
reactant | water | 50 ml | O | H2O
solvent | ethanol | 2.8 l | C(C)O | C2H6O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-(p-acetylphenyl)-2-furonitrile | 22 g, 52.5% | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C#N | C13H9NO2
